2108-05-03 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2108-5-2**] 10:00 AM
 ULTRASOUND - At [**2108-5-2**] 02:00 PM
   Pt with elevated LFT --> RUQ U/S showed stones in the GB, but no duct
   dilation or signs of obstruction. Liver looked OK.
   Renal U/S: no hydro
   CXR: Rapid improvement in left lung aeration suggests previous
   opacities may have represented atelectasis
   Pt INR 5.6 --> 5.2 --> 4.4, pt with oozing from IV sites, trach,
   bladder
   Placed patient on [**Name (NI) 227**]
   Pt hyopthermic temp 95, placed on bear-hugger
   Spoke with patient's regarding goals of care. They understand the
   situation, but still would like patient to be full code and cont
   current care. Including CPR/Pressors/ etc. If situation changes they
   will readdress the goals if worsens
   Started tube feeds with free water flushes
   Pt growing GNR in blood cx
   Pt with MAPS 40-50's  --> bolus 1LNS
   Hyponatermic 147: gave 1L d5W and free water flushes
   Cr 2.5 -->2.7
   LFT slightly improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-5-3**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-3**] 04:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-5-2**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-3**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 62 (53 - 66) bpm
   BP: 114/51(67) {91/33(54) - 114/54(68)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,686 mL
                                                                  1,421 mL
   PO:
             TF:
                                                                     37 mL
                                                                    157 mL
   IVF:
                                                                  1,558 mL
                                                                  1,264 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                      0 mL
   Urine:
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,031 mL
                                                                  1,421 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Pupils 3mm equally, sluggish but reactive
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Right
   IJ cordis in place
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Coarse breath sounds anteriorly on vent
   Abdominal: Soft, Non-distended, hypoactive bowel sounds
   Extremities: Right: 1+, Left: 2+, Contracted lower extremeties, s/p
   removal R femoral line
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool, Sacral decub ulcers, left heel ulcer, right foot ulcers
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased
   Labs / Radiology
   215 K/uL
   7.8 g/dL
   92 mg/dL
   2.8 mg/dL
   26 mEq/L
   4.3 mEq/L
   175 mg/dL
   103 mEq/L
   143 mEq/L
   25.4 %
   11.2 K/uL
        [image002.jpg]
                             [**2108-5-2**]  05:01 AM
                             [**2108-5-2**]  09:25 AM
                             [**2108-5-2**]  01:38 PM
                             [**2108-5-2**]  08:08 PM
                             [**2108-5-3**]  05:05 AM
   WBC
   10.6
   11.2
   Hct
   24.9
   26.1
   25.4
   Plt
   194
   215
   Cr
   2.5
   2.7
   2.8
   TropT
   0.16
   0.16
   TCO2
   32
   Glucose
   106
   59
   92
   Other labs: PT / PTT / INR:34.1/48.0/3.6, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:147/216, Alk Phos / T Bili:1813/2.5,
   Differential-Neuts:80.6 %, Lymph:13.8 %, Mono:4.7 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:252 IU/L, Ca++:6.5 mg/dL,
   Mg++:2.8 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after
   asystolic cardiac arrest, currently ventilator dependent, presents from
   [**Hospital3 **] with bradycardia, hypotension and hyperkalemia.
   .
   # Hypotension: Pt was initially hypotensive in the ED with BP of
   70/30's.  Pt with known systolic CHF, with EF ~ 30%.  However, BP
   improved after receiving atropine and treatment for his hyperkalemia
   while in the ED up to 120's. BP on arrival to CCU 92/43, HR 53.  Pt is
   s/p ~3L IVF in ED.  Possible that hypotension is related to
   distributive shock physiology given fever in ED, or related to on-going
   bradycardia/junctional rhythm.
   - Hold Carvedilol
   - Hold Lasix
   - Goal MAP >55
   .
   # Bradycardia:  The patient was noted to be bradycardic in the ED tp
   the 40's on arrival.  12-lead EKG showed slow atrial fib vs. a
   junctional rhythm, however his bradycardia improved after treatment of
   his hyperkalemia.  The etiology of this patient's bradycardia is likely
   related to his metabolic derangements in the setting of conduction
   system disease, or an active infection as the patient did spike a fever
   to 102 on arrival.  A temporary pacer was considered but felt to be not
   ideal for this patient at this time given his fevers and likely
   infection.
   - Hold Carvedilol for now
   - EP consult in AM to evaluate for possible PPM placement
   - Pacer pads in place as needed
   - Atropine prn
   .
   # Fevers: Up to 102 in ED. Lactate of 2.3.  UA with mod leuks, several
   WBCs, and many bacteria, with possible source of infection being
   urine.  CXR on [**4-30**] at [**Hospital3 **] suspicious for LLL infiltrate
   and patient was started on Vanc 1gm IV daily on [**5-1**] for MRSA positive
   sputum.
   - Continue empiric ABx coverage for now with Vanc/Zosyn until better
   idea of source given hypotension in ED
   - f/u CXR
   - f/u Blood, Urine cultures
   - pt with no indwelling lines on admission; dirty fem line placed in ED
   to be pulled
   .
   # Hyperkalemia: s/p Kayexalate, IVF and calcium gluconate in ED. Repeat
   K still 5.5, treat as needed w/Kayexalate and insulin, d50, and calcium
   gluconate. Elevated K+ may be related to rising creatnine and worsening
   renal function.
   - f/u K+
   - Kayexalate PRN
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   - Wean O2 to 40% if possible today
   .
   # CKD: Cr 2.3 on admission within range of prior renal function.
   However, pt with rising Cr (was 1.0 at [**Hospital3 **] several days
   ago), and although Cr within range of previous Creatinines here, pt may
   be in ARF.  BUN noted to be elevated to 160 on admission labs, elevated
   out of proportion to Creatinine.
   - monitor Cr after IVF
   - renally dose meds
   .
   # Supratherapeutic INR:  Patient on coumadin for history of St. [**First Name5 (NamePattern1) 1930**]
   [**Last Name (NamePattern1) **] as well as AFib with INR on admission of 5.6 and PTT of 65.5.  INR
   was 2.0 on [**4-26**] at [**Hospital3 **].  Hct of 25 on admission within
   range of prior Hct's/anemia with no signs of active bleeding other than
   hematuria.
   - Hold coumadin
   - 2mg oral Vitamin K for now
   - FFP if more signs of active bleeding, though not ideal given
   patient's history of CHF and [**Hospital3 **]
   - Follow INR closely with goal 2.5-3.5
   .
   # Hematuria: Supratherapeutic INR on admission as above. Possible
   traumatic foley placement given history of difficult foley placement in
   the past.
   - [**Hospital3 227**] if hematuria continues
   - Reversal of supratherapeutic INR as above
   .
   # CAD: Troponin 0.15 in ED, CK-MB 3. EKG with no ischemic changes.
   - Trend cardiac enzymes
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2:
   - Lantus, Lispro insulin sliding scale
   .
   # FEN: NPO for now in case of EP procedure
   # ACCESS: RIJ
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given
   supratherapeutic INR
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]; unable to be reached from ED.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2108-5-2**] 09:31 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2108-5-2**] 03:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-05-04 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Temp at 2pm 94.9 -> bear hugger started, removed later
   - Final U/S read: Gallbladder filled with gallstones, without evidence
   of biliary ductal dilatation.
   - Vancomycin stopped
   - speciation of GNR not back, but pt now growing proteus >100,000 in
   urine
   - Ethics consulted, will see in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-3**] 10:30 AM
   Vancomycin - [**2108-5-4**] 12:00 AM
   Piperacillin - [**2108-5-4**] 03:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-5-3**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-4**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 61 (53 - 65) bpm
   BP: 108/43(58) {90/35(51) - 116/56(69)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,671 mL
                                                                    595 mL
   PO:
             TF:
                                                                    705 mL
                                                                    258 mL
   IVF:
                                                                  1,616 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                  1,600 mL
   Urine:
                                                                  2,250 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    421 mL
                                                                 -1,005 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 99%
   ABG: ///26/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Pupils 3mm equally, sluggish but reactive
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Right
   IJ cordis in place
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Coarse breath sounds anteriorly on vent
   Abdominal: Soft, Non-distended, hypoactive bowel sounds
   Extremities: Right: 1+, Left: 2+, Contracted lower extremeties, s/p
   removal R femoral line
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool, Sacral decub ulcers, left heel ulcer, right foot ulcers
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased
   Labs / Radiology
   213 K/uL
   8.2 g/dL
   171 mg/dL
   2.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   175 mg/dL
   100 mEq/L
   141 mEq/L
   26.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2108-5-2**]  05:01 AM
                             [**2108-5-2**]  09:25 AM
                             [**2108-5-2**]  01:38 PM
                             [**2108-5-2**]  08:08 PM
                             [**2108-5-3**]  05:05 AM
                             [**2108-5-4**]  03:50 AM
   WBC
   10.6
   11.2
   14.1
   Hct
   24.9
   26.1
   25.4
   26.1
   Plt
   194
   215
   213
   Cr
   2.5
   2.7
   2.8
   2.9
   TropT
   0.16
   0.16
   TCO2
   32
   Glucose
   106
   59
   92
   171
   Other labs: PT / PTT / INR:31.8/48.2/3.3, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:154/198, Alk Phos / T Bili:1813/2.5,
   Differential-Neuts:82.0 %, Lymph:11.4 %, Mono:4.6 %, Eos:1.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:272 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after
   asystolic cardiac arrest, currently ventilator dependent, presents from
   [**Hospital3 **] with bradycardia, hypotension and hyperkalemia.
   .
   # Bacteremia: Likely sources still include cholangitis and uti.
   Currently growing gram neg rods in blood and proteus in urine. Last
   time he grew proteus in urine it was not ESBL. Per his long term care
   facility there was MRSA in sputum which we were thinking was a
   colonizer.
   - cont Zosyn
   - resend sputum
   - follow cx sensitivities
   - follow fever curves
   .
   # Hypothermia: nl thyroid fct. Will check [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim today
   .
   # Hypotension:Pressure have remained stable..
   - Holding Carvedilol
   - Holding Lasix
   - Goal MAP >55
   .
   # Elevated LFTs: Obstructive picture given elevated alk phos.
   Obstructive could be from stones or biliary sludge. If WBC ct cont to
   rise on ABX would need to cont work-up of biliary obstruction.
   - cont to trend LFTs
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # CKD: No e/o obstruction on renal u/s.  Most likely ATN [**1-2**]
   hypotension and subsequent ischemia.
   - check urine lytes and eos
   - monitor Cr after IVF
   - renally dose meds
   .
   # Supratherapeutic INR:  INR trending down, now 3.3.
   - Cont hold coumadin
   .
   # Hematuria: Likely traumatic foley placement in setting of elev INR .
   Cont to pass clots.
   - cont bladder irrigation PRN
   - would anticipate that as INR trends down hematuria should improve
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2:
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis, Rabbi
   not amenable to chaning code status
   - consutling ethics
   - will discuss CPR indicated with family again
   # FEN: TFs
   # ACCESS: RIJ
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given
   supratherapeutic INR, aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]; unable to be reached from ED.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   DNR status discussed. Other.
   Total time spent on patient care: 80 minutes of critical care time.
   Additional comments:
   Intubated, sepsis, obstructive jaundice, ...
   We have a long family meeting with family and family Rabi.  It was made
   clear that any quality of life should be maintained at any cost.
   However, I indicated that if cardiac arrest occurs with no chance of
   recovery of cardiac function (standstill, PEA, ), than we may not
   institute CPR if chance of restoring rhythm is not there.
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2108-5-5**] 08:18 ------

2108-05-05 07:39:00 Physician Resident Progress Note
Chief Complaint: [**Age over 90 **] yo man with DM2, PAD presents with asystolic
   cardiac arrest.
   24 Hour Events:
   -restarted Vanc
   -restarted warfarin
   -ethics c/s today
   -had BRBPR in setting of having rectal temp. appeared to be
   hemorrhoidal bleeding.hct 23.6 on recheck.
   - added on an am [**Last Name (un) 402**] which was 24
   - anuric. will need to call renal tomorrow
   - put out 100 cc to lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2108-5-4**] 03:50 AM
   Vancomycin - [**2108-5-4**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-4**] 10:10 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-5-4**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 53 (53 - 64) bpm
   BP: 85/38(50) {85/36(49) - 112/52(64)} mmHg
   RR: 18 (17 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
             Total In:
                                                                  1,880 mL
                                                                    297 mL
   PO:
             TF:
                                                                    840 mL
                                                                    260 mL
   IVF:
                                                                    770 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                    185 mL
   Urine:
                                                                  2,880 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Pupils 3mm equally, sluggish but reactive
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Right
   IJ cordis in place
   PeripheralVascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Coarse breath sounds anteriorly on vent
   Abdominal: Soft, Non-distended, hypoactive bowel sounds
   Extremities: Right: 1+, Left: 2+, Contracted lower extremeties, s/p
   removal R femoral line
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool, Sacral decub ulcers, left heel ulcer, right foot ulcers
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased
   Labs / Radiology
   209 K/uL
   8.0 g/dL
   148 mg/dL
   3.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   183 mg/dL
   101 mEq/L
   142 mEq/L
   25.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2108-5-2**]  05:01 AM
                             [**2108-5-2**]  09:25 AM
                             [**2108-5-2**]  01:38 PM
                             [**2108-5-2**]  08:08 PM
                             [**2108-5-3**]  05:05 AM
                             [**2108-5-4**]  03:50 AM
                             [**2108-5-4**]  03:05 PM
                             [**2108-5-5**]  03:21 AM
   WBC
   10.6
   11.2
   14.1
   15.3
   Hct
   24.9
   26.1
   25.4
   26.1
   23.6
   25.7
   Plt
   194
   215
   213
   209
   Cr
   2.5
   2.7
   2.8
   2.9
   3.1
   TropT
   0.16
   0.16
   TCO2
   32
   Glucose
   106
   59
   92
   171
   148
   Other labs: PT / PTT / INR:35.9/53.8/3.8, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:154/186, Alk Phos / T Bili:2091/2.3,
   Differential-Neuts:80.9 %, Lymph:12.7 %, Mono:3.7 %, Eos:2.4 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:321 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.8 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ASSESSMENT AND PLAN: [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after
   asystolic cardiac arrest, currently ventilator dependent, presents from
   [**Hospital3 **] with bradycardia, hypotension and hyperkalemia.=
   .
   # Bacteremia: WBC trending up. Likely source urine given urine and
   blood both growing proteus. Also cholangitis given LFT showing
   obstructive procedure. Blood pansentiive except to cipro/bactrim.
   Blood now growing GPC in [**Location (un) **]/clusters (possible contaminiation). Per
   his long term care facility there was MRSA in sputum which we were
   thinking was a colonizer.
   - consider changing abx to CTX given urinary source
   - cont vanco until BCx result return for GPC
   - follow cx sensi
   - follow fever curves
   .
   # Hypothermia: nl thyroid fct. AM Cortisol >20
   -          likely secondary to infection
   .
   # Hypotension:Pressure have remained stable in SBP 90
   - Holding Carvedilol
   - Holding Lasix
   - Goal MAP >55
   - IVF prn
   .
   # Elevated LFTs: Obstructive picture given elevated alk phos. Elevated,
   but stable. Obstructive could be from stones or biliary sludge. RUQ did
   not show obstruction
   - cont to trend LFTs
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # CKD: No e/o obstruction on renal u/s.  Most likely ATN [**1-2**]
   hypotension and subsequent ischemia. FeUrea 52%
   - monitor Cr
   - renally dose meds
   - consider renal consult
   .
   # Supratherapeutic INR:  [**Name (NI) **], Pt restarted on warfarin INR trending up,
   now 3.8.
   - Cont hold coumadin and doise everyother day
   .
   # Hematuria: Likely traumatic foley placement in setting of elev INR .
   Cont to pass clots.
   - cont bladder irrigation PRN
   - would anticipate that as INR trends down hematuria should improve
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2:
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis, Rabbi
   not amenable to chaning code status
   - consutling ethics
   - will discuss CPR indicated with family again
   # FEN: TFs
   # ACCESS: RIJ
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given
   supratherapeutic INR, aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]; unable to be reached from ED.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2108-5-4**] 07:21 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2108-5-2**] 03:31 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-05-05 10:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -restarted Vanc
   -restarted warfarin
   -ethics c/s today
   -had BRBPR in setting of having rectal temp. appeared to be
   hemorrhoidal bleeding.hct 23.6 on recheck.
   - added on an am [**Last Name (un) 402**] which was 24
   - anuric. will need to call renal tomorrow
   - put out 100 cc to lasix
   - growing gram pos cocci in pairs/chains/clusters from cortis. Vanc
   stopped and daptomycin started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2108-5-4**] 03:50 AM
   Vancomycin - [**2108-5-4**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-5**] 10:05 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-5-4**] 08:10 PM
   Pantoprazole (Protonix) - [**2108-5-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-5**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 56 (53 - 64) bpm
   BP: 101/38(53) {85/36(49) - 112/52(64)} mmHg
   RR: 18 (17 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
             Total In:
                                                                  1,880 mL
                                                                    900 mL
   PO:
             TF:
                                                                    840 mL
                                                                    367 mL
   IVF:
                                                                    770 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                    259 mL
   Urine:
                                                                  2,880 mL
                                                                    259 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                    641 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 8.7 L/min
   Physical Examination
   GENERAL: Elderly man, eyes closed not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: JVP of 8 cm.  RIJ Cordis in place. Tracheostomy collar in place.
   Site appears clean without erythema or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheeze or rales
   anteriorly
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds. Guaiac negative
   per report.
   EXTREMITIES: No c/c/e. R groin TLC in place with some oozing from the
   site. LLE with 2+ pitting edema to knee, RLE with 1+ pre-tibial edema
   to the knee.
   SKIN: Heel ulcer with clean dressing in place over R and L feet.  stage
   II decubitus ulcer
   NEURO: R pupil 3 mm and sluggish but reactive
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   209 K/uL
   8.0 g/dL
   148 mg/dL
   3.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   183 mg/dL
   101 mEq/L
   142 mEq/L
   25.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2108-5-2**]  05:01 AM
                             [**2108-5-2**]  09:25 AM
                             [**2108-5-2**]  01:38 PM
                             [**2108-5-2**]  08:08 PM
                             [**2108-5-3**]  05:05 AM
                             [**2108-5-4**]  03:50 AM
                             [**2108-5-4**]  03:05 PM
                             [**2108-5-5**]  03:21 AM
   WBC
   10.6
   11.2
   14.1
   15.3
   Hct
   24.9
   26.1
   25.4
   26.1
   23.6
   25.7
   Plt
   194
   215
   213
   209
   Cr
   2.5
   2.7
   2.8
   2.9
   3.1
   TropT
   0.16
   0.16
   TCO2
   32
   Glucose
   106
   59
   92
   171
   148
   Other labs: PT / PTT / INR:35.9/53.8/3.8, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:154/186, Alk Phos / T Bili:2091/2.3,
   Differential-Neuts:80.9 %, Lymph:12.7 %, Mono:3.7 %, Eos:2.4 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:321 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.8 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ASSESSMENT AND PLAN: [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after
   asystolic cardiac arrest, currently ventilator dependent, presents from
   [**Hospital3 **] with bradycardia, hypotension and hyperkalemia.
   .
   # Bacteremia: Currently growing proteus in urine and blood. Urine
   likely source.  Also pt growing GPC in blood, sources include open
   sores, pna. Per his long term care facility there was MRSA in sputum
   which we were thinking was a colonizer. Pt changed to [**Hospital3 8023**] given grew
   GPC on vanco. Pt also with onstructive picture on LFT, but RUQ neg
   - cont Zosyn
   - cont [**Last Name (LF) 8023**], [**First Name3 (LF) **] speak with ID for approval
   - resend sputum
   - follow cx sensitivities
   - follow fever curves
   .
   # Hypothermia: nl thyroid fct. Cortisol >20 in AM
   .
   # Hypotension:Pressure have remained stable..
   - Holding Carvedilol
   - Holding Lasix
   - Goal MAP >55
   .
   # Elevated LFTs: Obstructive picture given elevated alk phos.
   Obstructive could be from stones or biliary sludge. WBC trending up.
   Will trend LFTs
   Consider repeat RUQ on Monday if increasing.
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # CKD: No e/o obstruction on renal u/s.  Most likely ATN [**1-2**]
   hypotension and subsequent ischemia.
   - monitor Cr
   - renally dose meds
   .
   # Supratherapeutic INR:  INR trending down, now 3.8.
   - Cont hold coumadin
   .
   # Hematuria: Likely traumatic foley placement in setting of elev INR .
   Cont to pass clots.
   - cont bladder irrigation PRN
   - would anticipate that as INR trends down hematuria should improve
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2:
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis, Rabbi
   not amenable to chaning code status
   - consutling ethics
   - will discuss CPR indicated with family again
   # FEN: TFs
   # ACCESS: RIJ
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given
   supratherapeutic INR, aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]; unable to be reached from ED.

2108-05-06 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2108-5-5**]:
   Spoke with ID regarding abx choice. Changed to linezolid 600mg Q12
   Held coumadin
   Cont to be anuric
   Blood Cx: growing enterococcus
   Urine/Blood Cx: growin proteus (resistant to cipro/bactrim,
   intermediate to gent)
   Renal Consult: no indication for dialysis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2108-5-4**] 03:50 AM
   Vancomycin - [**2108-5-4**] 09:30 PM
   Linezolid - [**2108-5-6**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-5-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-6**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 59 (49 - 60) bpm
   BP: 96/34(49) {88/30(46) - 109/49(63)} mmHg
   RR: 19 (16 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 99.4 kg (admission): 97 kg
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    641 mL
   PO:
             TF:
                                                                    840 mL
                                                                    255 mL
   IVF:
                                                                    580 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                     50 mL
   Urine:
                                                                    545 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,345 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 99%
   ABG: ///23/
   Ve: 7.8 L/min
   Physical Examination
   GENERAL: Elderly man, eyes closed not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: JVP of 8 cm.  RIJ Cordis in place. Tracheostomy collar in place.
   Site appears clean without erythema or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheeze or rales
   anteriorly
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds. Guaiac negative
   per report.
   EXTREMITIES: No c/c/e. R groin TLC in place with some oozing from the
   site. LLE with 2+ pitting edema to knee, RLE with 1+ pre-tibial edema
   to the knee.
   SKIN: Heel ulcer with clean dressing in place over R and L feet.  stage
   II decubitus ulcer
   NEURO: R pupil 3 mm and sluggish but reactive
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   205 K/uL
   7.7 g/dL
   158 mg/dL
   3.4 mg/dL
   23 mEq/L
   4.2 mEq/L
   204 mg/dL
   96 mEq/L
   136 mEq/L
   24.1 %
   13.8 K/uL
        [image002.jpg]
                             [**2108-5-2**]  05:01 AM
                             [**2108-5-2**]  09:25 AM
                             [**2108-5-2**]  01:38 PM
                             [**2108-5-2**]  08:08 PM
                             [**2108-5-3**]  05:05 AM
                             [**2108-5-4**]  03:50 AM
                             [**2108-5-4**]  03:05 PM
                             [**2108-5-5**]  03:21 AM
                             [**2108-5-6**]  05:45 AM
   WBC
   10.6
   11.2
   14.1
   15.3
   13.8
   Hct
   24.9
   26.1
   25.4
   26.1
   23.6
   25.7
   24.1
   Plt
   194
   215
   213
   209
   205
   Cr
   2.5
   2.7
   2.8
   2.9
   3.1
   3.4
   TropT
   0.16
   0.16
   TCO2
   32
   Glucose
   106
   59
   92
   171
   148
   158
   Other labs: PT / PTT / INR:42.3/66.1/4.7, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:132/132, Alk Phos / T Bili:[**2018-11-29**].8,
   Differential-Neuts:80.1 %, Lymph:13.6 %, Mono:3.0 %, Eos:2.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:270 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.8 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after
   asystolic cardiac arrest, currently ventilator dependent, presents from
   [**Hospital3 **] with bradycardia, hypotension and hyperkalemia.
   .
   # Bacteremia: Currently growing proteus in urine and blood. Urine
   likely source.  Also pt growing enterococcus in blood. Pt also with
   open sores,. Per his long term care facility there was MRSA in sputum
   which we were thinking was a colonizer. Pt changed to linezolid. Pt
   also with obstructive picture on LFT, but RUQ neg
   - cont Zosyn
   - cont linezolid
   - follow cx sensitivities
   - follow fever curves
   .
   # Hypothermia: nl thyroid fct. Cortisol >20 in AM
   - see above for management, likely [**1-2**] infection
   .
   # Hypotension:Pressure have remained stable.
   - Holding Carvedilol
   - Holding Lasix
   - Goal MAP >55
   .
   # Elevated LFTs: Obstructive picture given elevated alk phos.
   Obstructive could be from stones or biliary sludge. WBC trending down.
   Will trend LFTs
   Consider repeat RUQ on Monday if worsening.
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # CKD: No e/o obstruction on renal u/s.  Most likely ATN [**1-2**]
   hypotension and subsequent ischemia.  Renal consulted and currently no
   acute need for dialysis. Pt is a poor candidate.
   - f/u renal recs
   - monitor Cr
   - renally dose meds
   - will give IV lasix 80mg x1 for diuresis to prevent volume overload
   .
   # Supratherapeutic INR:  INR trending down, now 4.7.  Multifactorial
   including nutrition and liver failure.
   - Cont hold coumadin
   .
   # Hematuria: Likely traumatic foley placement in setting of elev INR .
   Cont to pass clots.
   - cont bladder irrigation PRN
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2:
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis, Rabbi
   not amenable to chaning code status
   - consutling ethics
   - will discuss CPR indicated with family again
   # FEN: TFs
   # ACCESS: RIJ
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given
   supratherapeutic INR, aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]; unable to be reached from ED.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   respiratory failure, sepsis, renal failure
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2108-5-6**] 10:00 ------

2108-05-07 07:43:00 Physician Resident Progress Note
24 Hour Events:
   - VRE sensitivites returned only sensitive to Linezolid
   - RUQ US report- unchanged (no e/o cholecystitis)
   - No change in renal recs
   - gave lasix 80 in AM w/ only 150cc UOP from it, repeated lasix 80 at
   3pm and only got 5cc
   - pt also had clots w/ irrigiation - and nurse put 250cc in and only
   could get back 180 from difficulty drawing back ---> restarted CBI
   - did not try lasix after that even though 1L positive at 7pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-5-4**] 09:30 PM
   Linezolid - [**2108-5-7**] 01:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-5-6**] 08:00 AM
   Furosemide (Lasix) - [**2108-5-6**] 03:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-7**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 57 (51 - 61) bpm
   BP: 96/30(46) {84/30(46) - 109/52(63)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
             Total In:
                                                                  1,891 mL
                                                                    658 mL
   PO:
             TF:
                                                                    841 mL
                                                                    269 mL
   IVF:
                                                                    930 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                    322 mL
                                                                    300 mL
   Urine:
                                                                    322 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,569 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 7.9 L/min
   Physical Examination
   GENERAL: Elderly man, eyes closed not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheeze or rales
   anteriorly
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds. Guaiac negative
   per report.
   EXTREMITIES: No c/c/e. LLE with 2+ pitting edema to knee, RLE with 1+
   pre-tibial edema to the knee.
   SKIN: Heel ulcer with clean dressing in place over R and L feet.  stage
   II decubitus ulcer
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   207 K/uL
   7.0 g/dL
   181 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.1 mEq/L
   214 mg/dL
   95 mEq/L
   136 mEq/L
   21.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2108-5-2**]  05:01 AM
                             [**2108-5-2**]  09:25 AM
                             [**2108-5-2**]  01:38 PM
                             [**2108-5-2**]  08:08 PM
                             [**2108-5-3**]  05:05 AM
                             [**2108-5-4**]  03:50 AM
                             [**2108-5-4**]  03:05 PM
                             [**2108-5-5**]  03:21 AM
                             [**2108-5-6**]  05:45 AM
                             [**2108-5-7**]  05:34 AM
   WBC
   10.6
   11.2
   14.1
   15.3
   13.8
   13.1
   Hct
   24.9
   26.1
   25.4
   26.1
   23.6
   25.7
   24.1
   21.5
   Plt
   194
   215
   213
   [**Telephone/Fax (3) 8054**]
   Cr
   2.5
   2.7
   2.8
   2.9
   3.1
   3.4
   3.6
   TropT
   0.16
   0.16
   TCO2
   32
   Glucose
   106
   59
   92
   171
   148
   158
   181
   Other labs: PT / PTT / INR:49.7/75.7/5.7, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:108/92, Alk Phos / T Bili:1644/1.6,
   Differential-Neuts:77.7 %, Lymph:15.9 %, Mono:3.2 %, Eos:2.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:273 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.9 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after
   asystolic cardiac arrest, currently ventilator dependent, presents from
   [**Hospital3 **] with bradycardia, hypotension and hyperkalemia.
   .
   # Bacteremia: Currently growing proteus in urine and blood. Urine
   likely source.  Also growing VRE in blood.  ID following
   - cont Zosyn
   - cont linezolid
   - serial cxs
   - follow fever curves
   - f/u ID recs
   .
   # Hypothermia: likely [**1-2**] infection in an already immunocompromised
   individual.
   - cont bear hugger PRN
   .
   # Hypotension:Pressure have remained stable
   - Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: Obstructive picture given elevated alk phos though
   LFTs appear slightly improved today.  Repeat liver u/s on [**5-6**] showed
   persistent cholelithiasis without cholecystitis or e/o ductal dilation.
   Very possible there was transient cholangitis vs shock liver.
   -cont to trend LFTs
   -tx of infection as per above
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # CKD: Cr remains elevated though stable at 3.6. Most likely ATN [**1-2**]
   hypotension and subsequent ischemia.  Renal consulted and currently no
   acute need for dialysis. Pt is a poor candidate.
   - f/u renal recs
   - monitor Cr
   - renally dose meds
   - cont IV lasix boluse of 80mg  for diuresis to prevent volume overload
   .
   # Supratherapeutic INR:  INR trendingup again, now 5.7.  Multifactorial
   including nutrition and liver failure.
   -Cont hold coumadin
   - 2.5 mg PO vit K  today
   .
   # Anemia: Elev ferritin indicative of anemia of chronic inflammation.
   Stools have been guiac negative.
   - check hemolysis labs
   -check retic ct
   - transfuse 1 unit and check a post-transfusion hct
   .
   # Hematuria: Likely traumatic foley placement in setting of elev INR .
   Cont to pass clots.
   - c/s urology today
   - cont bladder irrigation PRN
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2:
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: RIJ
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given
   supratherapeutic INR, aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   ventilated, sepssis, renal failure
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2108-5-8**] 10:12 ------

2108-05-08 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   renal recs: not rec RRT at this time, start phos lo
   urology rec: cont CBI PRN
   Hemolysis labs unremarakbale
   Received 1 unit PRBCs followed by lasix 80 mg IV x 1--> put out 375 cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-8**] 02:00 AM
   Linezolid - [**2108-5-8**] 02:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-5-8**] 02:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-8**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.6
C (96
   HR: 55 (53 - 64) bpm
   BP: 91/31(47) {91/30(47) - 110/50(64)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
           Total In:
                                                                  2,116 mL
                                                                    784 mL
   PO:
           TF:
                                                                    840 mL
                                                                    249 mL
   IVF:
                                                                    820 mL
                                                                    486 mL
   Blood products:
                                                                    326 mL
                                                                     49 mL
   Total out:
                                                                    965 mL
                                                                    375 mL
   Urine:
                                                                    965 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,151 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 36.3 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 8 L/min
   Physical Examination
   GENERAL: Elderly man, eyes open not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheeze or rales
   anteriorly
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds. Guaiac negative
   per report.
   EXTREMITIES: No c/c/e. LLE with 2+ pitting edema to knee, RLE with 1+
   pre-tibial edema to the knee.
   SKIN: Heel ulcer with clean dressing in place over R and L feet.  stage
   II decubitus ulcer
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   233 K/uL
   7.9 g/dL
   193 mg/dL
   3.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   223 mg/dL
   93 mEq/L
   134 mEq/L
   24.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2108-5-2**]  09:25 AM
                             [**2108-5-2**]  01:38 PM
                             [**2108-5-2**]  08:08 PM
                             [**2108-5-3**]  05:05 AM
                             [**2108-5-4**]  03:50 AM
                             [**2108-5-4**]  03:05 PM
                             [**2108-5-5**]  03:21 AM
                             [**2108-5-6**]  05:45 AM
                             [**2108-5-7**]  05:34 AM
                             [**2108-5-8**]  04:52 AM
   WBC
   10.6
   11.2
   14.1
   15.3
   13.8
   13.1
   13.9
   Hct
   24.9
   26.1
   25.4
   26.1
   23.6
   25.7
   24.1
   21.5
   24.6
   Plt
   194
   215
   213
   [**Telephone/Fax (3) 8054**]
   233
   Cr
   2.5
   2.7
   2.8
   2.9
   3.1
   3.4
   3.6
   TropT
   0.16
   0.16
   Glucose
   106
   59
   92
   171
   148
   158
   181
   Other labs: PT / PTT / INR:23.6/58.8/2.3, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:108/92, Alk Phos / T Bili:1644/1.6,
   Differential-Neuts:79.0 %, Lymph:14.7 %, Mono:2.9 %, Eos:3.1 %,
   Fibrinogen:772 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:40
   IU/L, Ca++:7.4 mg/dL, Mg++:2.9 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   .
   # Septicemia Currently growing proteus in urine and blood. Urine likely
   source.  Also growing VRE in blood. Surv cultures have been NGTD. WBC
   count slightly increased today 13.9. Pt with multiple skin sores and
   cordis from outside rehab. Possible sources of infection.
   - cont Zosyn
   - cont linezolid no PO
   - serial cxs
   - follow fever curves
   - consider ID consult (regarding course of antibiotics)
   - XR of feet to r/o osteo
   - - hold off on ECHO and/or line change vs U/S of cordis given VRE
   osteo investigaton negative will reconsider
   .
   # Decubitis ucler
 likely contributing, ? osteo
   -wound care
   - cont abx as above
   .
   # Hypothermia: likely [**1-2**] infection in an already immunocompromised
   individual.
   - cont bear hugger PRN
   .
   # Hypotension:Pressure have remained stable
   - Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: Obstructive picture given elevated alk phos though
   LFTs appear slightly improved today.  Repeat liver u/s on [**5-6**] showed
   persistent cholelithiasis without cholecystitis or e/o ductal dilation.
   Very possible there was transient cholangitis vs shock liver.
   -cont to trend LFTs
   -tx of infection as per above
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # CKD: Cr remains elevated at 3.9. Most likely ATN [**1-2**] hypotension and
   subsequent ischemia.  Renal consulted and currently no acute need for
   dialysis. Pt is a poor candidate.
   - f/u renal recs
   - monitor Cr
   - renally dose meds
   -  IV lasix bolus of 80mg for diuresis to prevent volume overload
   .
   # Subtherapeutic INR:  INR down to 2.3 from 5.7 after 2mg VitK.
   Multifactorial including nutrition and liver failure.
   - recheck INR this afternoon, if trending down will start heparin gtt
   -Cont hold coumadin for now
   - recheck INR in afternoon
   .
   # Anemia: Elev ferritin indicative of anemia of chronic inflammation.
   Stools have been guiac negative.  Hemolysis labs unremarkable. Pt
   transfused 1U with appropriate bump.
   - cont to trend Hct
   .
   # Hematuria: Likely traumatic foley placement in setting of elev INR .
   Cont to pass clots. Pt on CBI. Urology consulted.
   - cont bladder irrigation PRN
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2:
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: RIJ
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given INR,
   aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2108-5-7**] 08:45 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2108-5-2**] 03:31 AM
   Code status: Full code
   Disposition: CCU

2108-05-09 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   renal recs: phoslo 2tabs TID, spoke with family at length regarding
   dialysis. Still no indication for dialysis
   X-ray of foot: concerning for osteomyelitis involving the base of the
   fifth metatarsal head and cuboid. Further evaluation with MRI is
   recommended.
   INR: 1.9 on repeat, gave 1mg coumadin, did not start heparin gtt given
   ongoing bleeding and small risk for thrombosis. Also PTT was 60 this
   AM. He will likely become therapeutic with the coumadin rather
   quickly.
   Creatinine worsened to 4.0
   I/O: 120mg lasix at 3pm, 7pm 1779/1075 (+704), 160mg @ 11pm, 2am
   (+334cc).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2108-5-9**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-5-8**] 08:40 AM
   Furosemide (Lasix) - [**2108-5-8**] 10:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-9**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 60 (52 - 62) bpm
   BP: 105/39(56) {95/30(48) - 109/43(59)} mmHg
   RR: 18 (18 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
             Total In:
                                                                  2,101 mL
                                                                    695 mL
   PO:
             TF:
                                                                    842 mL
                                                                    259 mL
   IVF:
                                                                    980 mL
                                                                    437 mL
   Blood products:
                                                                     49 mL
   Total out:
                                                                  1,725 mL
                                                                    700 mL
   Urine:
                                                                  1,725 mL
                                                                    600 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                    376 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 7.9 L/min
   Physical Examination
   GENERAL: Elderly man, eyes open not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheeze or rales
   anteriorly
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds.
   EXTREMITIES: No c/c/e. LLE with 2+ pitting edema to knee, RLE with 1+
   pre-tibial edema to the knee.
   SKIN: Heel ulcer with clean dressing in place over R and L feet.  stage
   II decubitus ulcer
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   242 K/uL
   7.2 g/dL
   156 mg/dL
   4.2 mg/dL
   26 mEq/L
   4.5 mEq/L
   220 mg/dL
   94 mEq/L
   136 mEq/L
   22.2 %
   15.7 K/uL
        [image002.jpg]
                             [**2108-5-2**]  08:08 PM
                             [**2108-5-3**]  05:05 AM
                             [**2108-5-4**]  03:50 AM
                             [**2108-5-4**]  03:05 PM
                             [**2108-5-5**]  03:21 AM
                             [**2108-5-6**]  05:45 AM
                             [**2108-5-7**]  05:34 AM
                             [**2108-5-8**]  04:52 AM
                             [**2108-5-8**]  05:05 PM
                             [**2108-5-9**]  05:31 AM
   WBC
   10.6
   11.2
   14.1
   15.3
   13.8
   13.1
   13.9
   15.7
   Hct
   26.1
   25.4
   26.1
   23.6
   25.7
   24.1
   21.5
   24.6
   22.2
   Plt
   194
   215
   213
   [**Telephone/Fax (2) 8097**]42
   Cr
   2.7
   2.8
   2.9
   3.1
   3.4
   3.6
   3.9
   4.0
   4.2
   TropT
   0.16
   Glucose
   59
   92
   171
   148
   158
   181
   193
   144
   156
   Other labs: PT / PTT / INR:19.7/49.9/1.8, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:66/51, Alk Phos / T Bili:1173/1.5,
   Differential-Neuts:81.7 %, Lymph:13.0 %, Mono:2.9 %, Eos:2.4 %,
   Fibrinogen:772 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:273
   IU/L, Ca++:7.0 mg/dL, Mg++:3.1 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   .
   # Septicemia Currently growing proteus in urine and blood. Also growing
   VRE in blood. All Survey cultures have been NGTD since [**5-4**].  WBC count
   continuing to rise  now 15.7. Also pt
s R foot XR highly suggestive of
   osteo.
   -  cont Zosyn day# 7
   -  cont PO linezolid day# 4
   -  continue serial blood cx
   - management described below
   -  c/s ID regarding course of tx of bacteremia and abx recs
   .
   # Subtherapeutic INR:  history of St. [**Initials (NamePattern4) 1930**] [**Last Name (NamePattern4) **]. INR down to 2.3 from
   5.7 after 2mg VitK day before, and with 1mg yesterday went down to
   1.8.  Goal INR 2.5-3.5 w/ valve. Since pt is at risk of bleeding and
   small risk for thrombosis, and being coagulopathic likely [**1-2**] liver
   failure (PTT was 60) choice made to not start heparin. Currently PTT
   still 50, and given 1mg coumadin yesterday
   - give 2mg coumadin (home dose 2.5) today, and hold off on heparin gtt
   - recheck INR in am
   # Osteo / Decubitis ucler
 likely osteo at foot, and possibley at site
   of decub.  On day#4 of Linezolid
   -  c/s podiatry regarding possible surgical management of osteo
   - f/u final plain film read
   .
   # UTI- growing proteus. Day #[**6-8**] of Zosyn
   # CKD: Cr continues to rise now 4.2. Most likely ATN [**1-2**] hypotension
   and subsequent ischemia.
   - continuing to hold off on dialysis per renal
   - goal I/O even
 give lasix 120mg this AM
   - f/u renal recs
   # Anemia: Hct trending down. Anemia likely a manifestation of worsening
   chronic kidney disease. Stools have been guiac positive but this could
   be related to known hemorrhoids
no gross bleeding.  Hemolysis labs
   unremarkable. Pt transfused 1U [**2108-5-7**] with appropriate bump.
   - check DIC labs with infection
   - transfuse Hct < 21
   - discuss starting epo with renal
   - check PM Hct
   # Hypothermia: Resolved. No longer requiring bear hugger.
   .
   # Hypotension: Pressure have remained stable. Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: LFTs cont to improve . Again it is very possible that
   the sig elevation related to transient cholangitis vs shock liver
   -cont to trend LFTs
   -tx of infection as per above
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # Hematuria: Resolved.
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2: BS remain stable
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: cordis
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given INR,
   aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular Order date: [**5-2**] @ 0423
   8. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  Order date:
   [**5-8**] @ 1055
   2. Acetaminophen (Liquid) 650 mg PO Q4H:PRN fever  Order date: [**5-2**] @
   0423
   9. Linezolid 600 mg PO Q12H *Awaiting ID Approval*
   ID Approval is required for this order.
   day1 = [**5-5**]  Order date: [**5-8**] @ 1055
   3. Ascorbic Acid (Liquid) 504 mg PO DAILY  Order date: [**5-2**] @ 0423
   10. Multivitamins 1 TAB PO DAILY  Order date: [**5-2**] @ 0423
   4. Calcium Acetate 1334 mg PO TID W/MEALS  Order date: [**5-8**] @ 1508
   11. Piperacillin-Tazobactam Na 2.25 g IV Q6H  Order date: [**5-2**] @ 0423
   5. Furosemide 120 mg IV ONCE Duration: 1 Doses Order date: [**5-8**] @ 1204
   12. Senna 1 TAB PO BID Constipation  Order date: [**5-2**] @ 0423
   6. Furosemide 160 mg IV ONCE Duration: 1 Doses Order date: [**5-9**] @ 0714
   13. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**5-2**] @ 0423
   7. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**5-7**] @ 1804
   14. Warfarin 1 mg PO ONCE Duration: 1 Doses Order date: [**5-8**] @ 1853
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   sepsis, ventilated, osteomyoletis, renal failure
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2108-5-9**] 18:05 ------

2108-05-10 07:15:00 Physician Resident Progress Note
Chief Complaint:
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   24 Hour Events:
   -podiatry recs: Not a surgical candidate given current medical
   conditions; Recommend conservative care w/ daily wet to dry dressing
   changes and Multipodis/waffle boots bilaterally to offload heel and
   prevent further breakdown
   - s/p Podiatry tissue biopsy, started siginficantly oozing from the
   wound site. Lost about 100-200cc. Did not try to change his coagualtion
   status, talked with podiatry who recommended compressive dressing
   overnight.
   - ID recs: continue linezolid/zosyn for 2 weeks for osteo, and will f/u
   with ID at that point to reasses, but since endocarditis tx would be
   6wks needs [**Hospital3 **]. Ordered swab & culture of foot wound.Also if VRE grows
   again, should get CT abd
   - I/O: +545 --> BPs >110, gave lasix bolus 160 and increased drip from
   15 -> 20 mg/hr. Then at 10pm gave another 160 bolus and increased drip
   to 30u/h
   - f/u I/O: +1L at midnight.
   - pm Hct: 20.9 -> transfused 1 pRBC
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2108-5-9**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-9**] 04:30 PM
   Infusions:
   Furosemide (Lasix) - 30 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-10**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.3
C (95.6
   HR: 52 (52 - 62) bpm
   BP: 98/37(52) {98/36(52) - 121/47(66)} mmHg
   RR: 18 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
           Total In:
                                                                  2,282 mL
                                                                    434 mL
   PO:
           TF:
                                                                    840 mL
                                                                    251 mL
   IVF:
                                                                  1,097 mL
                                                                     64 mL
   Blood products:
                                                                    165 mL
                                                                    119 mL
   Total out:
                                                                  1,250 mL
                                                                    505 mL
   Urine:
                                                                    930 mL
                                                                    505 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,032 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: ///20/
   Ve: 8.1 L/min
   Physical Examination
   GENERAL: Elderly man, eyes open not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheeze or rales
   anteriorly
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds.
   EXTREMITIES: No c/c/e. LLE with 2+ pitting edema to knee, RLE with 1+
   pre-tibial edema to the knee.
   SKIN: Heel ulcer with dressing soaked with blood on right foot.  stage
   II decubitus ulcer
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   233 K/uL
   8.0 g/dL
   159 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   224 mg/dL
   93 mEq/L
   134 mEq/L
   21.5 %
   16.8 K/uL
        [image002.jpg]
                             [**2108-5-4**]  03:05 PM
                             [**2108-5-5**]  03:21 AM
                             [**2108-5-6**]  05:45 AM
                             [**2108-5-7**]  05:34 AM
                             [**2108-5-8**]  04:52 AM
                             [**2108-5-8**]  05:05 PM
                             [**2108-5-9**]  05:31 AM
                             [**2108-5-9**]  04:03 PM
                             [**2108-5-10**]  01:44 AM
                             [**2108-5-10**]  06:07 AM
   WBC
   15.3
   13.8
   13.1
   13.9
   15.7
   16.8
   Hct
   23.6
   25.7
   24.1
   21.5
   24.6
   22.2
   20.9
   23.9
   21.5
   Plt
   [**Telephone/Fax (3) **]33
   242
   233
   Cr
   3.1
   3.4
   3.6
   3.9
   4.0
   4.2
   4.2
   Glucose
   148
   158
   181
   193
   144
   156
   159
   Other labs: PT / PTT / INR:21.0/50.0/2.0, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:61/43, Alk Phos / T Bili:993/1.4,
   Differential-Neuts:82.9 %, Lymph:12.5 %, Mono:2.6 %, Eos:2.0 %,
   Fibrinogen:772 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:273
   IU/L, Ca++:6.9 mg/dL, Mg++:3.0 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ANEMIA, OTHER
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   .
   # Septicemia Rising WBC. Grew proteus in urine and blood. Also growing
   VRE in blood. All Survey cultures have been NGTD since [**5-4**].  WBC count
   continuing to rise  now 16.8. ID saw pt recommended [**Month/Day (1) **] for eval of
   endocarditis. Podiatry and ID saw pt regarding R foot XR highly
   suggestive of osteo (unlikely current source of bacteremia). Eval for
   endo will determine course, if neg then 2 weeks antibiotics  and f/u
   with ID at that point
   - Appreciate ID recs
   - Appreciate Podiatry recs
   -  cont Zosyn day# 8
   -  cont PO linezolid day# 5 (concern whether pt is absorbing given
   rising WBC)
   -  continue serial blood cx
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) **] determine length of treatment
   - ideally would change line, although patient is currently bleeding and
   would be high risk and hold off for now
   .
   #. Chronic Osteo: Pt seen by podiatry.  Not surgical candidate.
   Unlikely acute infection. Pt s/p tissue biopsy that has been profusely
   bleeding.
   -          appreciate pod recs
   -          compressive dressing changes
   -          antibiotic management as above
   # Subtherapeutic INR:  history of St. [**Initials (NamePattern4) 1930**] [**Last Name (NamePattern4) **]. INR down to 2.0. Pt
   on coumadin.  Goal INR 2.5-3.5 w/ valve. Since pt is bleeding and small
   risk for thrombosis, and being coagulopathic likely [**1-2**] liver failure
   (PTT was 60) benefit of heparin is marginal and risk is great.  PTT
   still 50, and on 2mg coumadin
   - give 2mg coumadin (home dose 2.5) today, and hold off on heparin gtt
   - recheck INR in am
   .
   # UTI- growing proteus. Day #8 of Zosyn. Treatment for bacteremia vs
   endocarditis will determine course of abx.
   # CKD: Cr continues to rise now 4.2. Most likely ATN [**1-2**] hypotension
   and subsequent ischemia.  Started on lasix gtt and given lasix bolus,
   but still 1l positive.
   - continuing to hold off on dialysis per renal
   - goal I/O even
 increase bolus to 200mg IV lasix, cont lasix drip
   with titration
   - f/u renal recs
   # Anemia: Hct down to 21.  Pt actively bleeding from biopsy side.
   Additionally,  worsening chronic kidney disease (was started on epo).
   Stools have been guaiac positive but this could be related to known
   hemorrhoids
no gross bleeding or melana. Pt also bleeding from bladder
   on intermittent CBI.  Hemolysis labs unremarkable. Pt transfused 1U
   [**5-9**]
   - transfuse 1U pRBC
   - post- transfusion Hct
   - transfuse Hct < 21
   - cont epo
   - wound care as above
   # Hypothermia: Resolved. No longer requiring bear hugger.
   .
   # Hypotension: Pressure have remained stable. Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: LFTs cont to improve . Again it is very possible that
   the sig elevation related to transient cholangitis vs shock liver
   -cont to trend LFTs
   -tx of infection as per above
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # Hematuria: continues to require intermittent CBI. Foley in place
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2: BS remain stable. On TF
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: cordis
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given INR,
   aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2108-5-9**] 09:43 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2108-5-2**] 03:31 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 8120**].
   I would add the following remarks:
   History
   Continues with complicated course with poor urine output.
   Extensive bleeding from right foot wound.
   BUN 224, Cr  4.2,
   Requiring PRBC TX.  Diarrhea persists.
   Physical Examination
   unconscious
   bloody wound right foot
   Medical Decision Making
   Will continue antibiotics.
   Continued discussion re possible use of HD in future.
   Prognosis for meaningful recovery hopeless.
   Will discuss plans with family and emphasize that no hope for
   meaningful recovery.
   Will hold coumadin in view of bleeding.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2108-5-10**] 14:53 ------

2108-05-11 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2108-5-10**] 03:00 PM
 BLOOD CULTURED - At [**2108-5-10**] 04:15 PM
   - pt continues to bleed from right foot, spoke with podiatry.
   Cauterizing wound and placed new dressing.
   -renal recs: no acute need for dialysis, vol even on lasix gtt, asked
   us to check ionized calcium
   -ID recs: send blood cx while hypothermic
   - TTE: no veg seen EF 30-40%
   - repleted calium gluconate
   - put out 0 urine to 200 IV lasix. Output remained very low when lasix
   gtt restarted. Began Metolazone 5mg [**Hospital1 7**].
   - post transfusion Hct 24
   - 2100: nursing irrigating without any clots coming out
   - post transfusion Hct of 24
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2108-5-10**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-10**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 30 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-5-10**] 08:00 AM
   Furosemide (Lasix) - [**2108-5-10**] 12:32 PM
   Morphine Sulfate - [**2108-5-10**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-11**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 66 (50 - 70) bpm
   BP: 103/39(55) {92/31(47) - 118/53(65)} mmHg
   RR: 21 (17 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
             Total In:
                                                                  2,292 mL
                                                                    161 mL
   PO:
             TF:
                                                                    840 mL
                                                                     80 mL
   IVF:
                                                                    763 mL
                                                                     81 mL
   Blood products:
                                                                    469 mL
   Total out:
                                                                    744 mL
                                                                     10 mL
   Urine:
                                                                    744 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,548 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 9 L/min
   Physical Examination
   GENERAL: Elderly man, eyes open not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheeze or rales
   anteriorly
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds.
   EXTREMITIES: No c/c/e. LLE with 2+ pitting edema to knee, RLE with 1+
   pre-tibial edema to the knee.
   SKIN: Heel ulcer with dressing C/I/D.  stage II decubitus ulcer
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   238 K/uL
   7.9 g/dL
   142 mg/dL
   4.2 mg/dL
   18 mEq/L
   4.5 mEq/L
   230 mg/dL
   92 mEq/L
   134 mEq/L
   23.0 %
   18.3 K/uL
        [image002.jpg]
                             [**2108-5-6**]  05:45 AM
                             [**2108-5-7**]  05:34 AM
                             [**2108-5-8**]  04:52 AM
                             [**2108-5-8**]  05:05 PM
                             [**2108-5-9**]  05:31 AM
                             [**2108-5-9**]  04:03 PM
                             [**2108-5-10**]  01:44 AM
                             [**2108-5-10**]  06:07 AM
                             [**2108-5-10**]  08:05 PM
                             [**2108-5-11**]  05:12 AM
   WBC
   13.8
   13.1
   13.9
   15.7
   16.8
   18.3
   Hct
   24.1
   21.5
   24.6
   22.2
   20.9
   23.9
   21.5
   24.0
   23.0
   Plt
   [**Telephone/Fax (2) 8140**]
   Cr
   3.4
   3.6
   3.9
   4.0
   4.2
   4.2
   4.2
   Glucose
   158
   181
   193
   144
   156
   159
   142
   Other labs: PT / PTT / INR:24.2/52.2/2.3, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:41/27, Alk Phos / T Bili:763/1.1,
   Differential-Neuts:83.6 %, Lymph:11.6 %, Mono:3.0 %, Eos:1.5 %,
   Fibrinogen:772 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:273
   IU/L, Ca++:6.8 mg/dL, Mg++:2.8 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   .
   # Septicemia Rising WBC 18.3. Grew proteus in urine and blood. Also
   grew VRE in blood. All Survey cultures have been NGTD since [**5-4**].. TTE
   negative for endocarditis. Podiatry and ID saw pt regarding R foot XR
   highly suggestive of osteo (unlikely current source of bacteremia.
   Given TTE negative will likely treat for 2 weeks antibiotics  and f/u
   with ID at that point
   - Appreciate ID recs
   - Appreciate Podiatry recs
   -  cont Zosyn day# 9
   -  Cont PO linezolid day# 6
   -  continue serial blood cx
   - ideally would change line, although patient is currently bleeding and
   would be high risk and hold off for now. Will plan to treath though
   infection
   .
   #. Chronic Osteo: Pt seen by podiatry.  Not surgical candidate.
   Unlikely acute infection.
   -   appreciate pod recs
   -    compressive dressing changes
   -    antibiotic management as above
   # Subtherapeutic INR:  history of St. [**Initials (NamePattern4) 1930**] [**Last Name (NamePattern4) **]. INR trending up to
   2.3. Pt coumadin held [**1-2**] to bleeding.  Goal INR 2.5-3.5 w/ valve.
   Since pt is bleeding and small risk for thrombosis, and being
   coagulopathic likely [**1-2**] liver failure benefit of heparin is marginal
   and risk is great.  PTT still 52
   - holding coumadin for now given
   - trend Hct and coags
   .
   # UTI- growing proteus. Day #9 of Zosyn. Treatment for bacteremia will
   determine course of abx.
   # CKD: Cr 4.2. Most likely ATN [**1-2**] hypotension and subsequent
   ischemia.  Contlasix gtt and given lasix bolus, but still 1.5l
   positive. Pt anuric
   - continuing to hold off on dialysis per renal
   - Pt with poor urine output. Will discuss with renal regarding need for
   lasix gtt.
   - f/u renal recs
   # Anemia: Hct down to 23.  Pt actively bleeding from biopsy side.
   Additionally,  worsening chronic kidney disease (was started on epo).
   Stools have been guaiac positive but this could be related to known
   hemorrhoids
no gross bleeding or melana. Pt also bleeding from bladder
   on intermittent CBI.  Hemolysis labs unremarkable. Pt transfused 1U
   [**5-10**]
   - recheck PM Hct
   - transfuse Hct < 21
   - cont epo
   - wound care as above
   # Hypothermia: requiring intermittent bear hugger. Likely secondary to
   infection
   .
   # Hypotension: Pressure have remained stable. Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: LFTs cont to improve . Again it is very possible that
   the sig elevation related shock liver
   -cont to trend LFTs
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # Hematuria: continues to require intermittent CBI. Foley in place
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2: BS remain stable. On TF
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: cordis
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given INR,
   aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2108-5-2**] 03:31 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   Urine output very poor despite high dose diuretics, BUN 230, Cr 2.4
   TTE shows no evidence of endocarditis so plan 2 wk course of
   antibiotics.
   Bleeding from right foot less after cautery by podiatry.
   Physical Examination
   [**Hospital 8150**]
   Medical Decision Making
   Continue antibiotics.
   pt not good candidate for HD.
   Discuss plans for transfer back to chonic care facility.
   Discuss hopeless prognosis and plans with family.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2108-5-11**] 11:24 ------

2108-05-12 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c lasix ggt
   - sent c. diff
   - Renal: Dr. [**Last Name (STitle) 3482**] will not offer dialysis
   - repeat Hct 21.5, transfused 1U pRBC
   - ID: change zosyn to ctx for 2 week course, cont linezolid for 2
   weeks, will add on tetracycline sensi and determine treatment for
   chronic osteo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-11**] 04:35 PM
   Linezolid - [**2108-5-11**] 04:35 PM
   Ceftriaxone - [**2108-5-11**] 09:12 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-5-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-12**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 61 (58 - 67) bpm
   BP: 111/39(57) {91/26(43) - 114/43(61)} mmHg
   RR: 22 (0 - 22) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
             Total In:
                                                                  1,657 mL
                                                                    300 mL
   PO:
             TF:
                                                                    843 mL
                                                                    262 mL
   IVF:
                                                                    438 mL
                                                                     37 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    260 mL
                                                                     70 mL
   Urine:
                                                                    260 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,397 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: ///19/
   Ve: 9 L/min
   Physical Examination
   GENERAL: Elderly man, eyes open not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheeze or rales
   anteriorly
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds.
   EXTREMITIES: No c/c/e. LLE with 2+ pitting edema to knee, RLE with 1+
   pre-tibial edema to the knee.
   SKIN: Heel ulcer with dressing C/I/D.  stage II decubitus ulcer
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   223 K/uL
   8.5 g/dL
   152 mg/dL
   4.8 mg/dL
   19 mEq/L
   4.7 mEq/L
   252 mg/dL
   90 mEq/L
   132 mEq/L
   24.7 %
   16.9 K/uL
        [image002.jpg]
                             [**2108-5-8**]  04:52 AM
                             [**2108-5-8**]  05:05 PM
                             [**2108-5-9**]  05:31 AM
                             [**2108-5-9**]  04:03 PM
                             [**2108-5-10**]  01:44 AM
                             [**2108-5-10**]  06:07 AM
                             [**2108-5-10**]  08:05 PM
                             [**2108-5-11**]  05:12 AM
                             [**2108-5-11**]  05:00 PM
                             [**2108-5-12**]  05:04 AM
   WBC
   13.9
   15.7
   16.8
   18.3
   21.5
   16.9
   Hct
   24.6
   22.2
   20.9
   23.9
   21.5
   24.0
   23.0
   21.5
   24.7
   Plt
   233
   242
   233
   238
   223
   Cr
   3.9
   4.0
   4.2
   4.2
   4.2
   4.8
   Glucose
   193
   144
   156
   159
   142
   152
   Other labs: PT / PTT / INR:20.7/48.9/1.9, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:37/27, Alk Phos / T Bili:679/1.4,
   Differential-Neuts:85.2 %, Lymph:9.8 %, Mono:3.1 %, Eos:1.6 %,
   Fibrinogen:772 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:241
   IU/L, Ca++:7.0 mg/dL, Mg++:2.9 mg/dL, PO4:9.1 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ANEMIA, OTHER
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   .
   # Septicemia [**Month (only) **] WBC 16.9. Grew proteus in urine, blood and wound swab.
   Also grew VRE in blood. All Survey cultures have been NGTD since [**5-4**].
   TTE negative for endocarditis. Podiatry and ID saw pt regarding R foot
   XR highly suggestive of osteo (unlikely current source of bacteremia.
   Given TTE negative will likely treat for 2 weeks antibiotics. Changed
   zosyn to CTX.
   - Appreciate ID recs
   - Appreciate Podiatry recs
   -  cont CTX day# [**9-12**]
   -  Cont PO linezolid day# [**6-12**]
   - will plan to treat though line
   - f/u tetracycline sensi and discuss with ID regarding suppressive
   therapy for chronic oste.
   .
   #. Chronic Osteo: Pt seen by podiatry.  Not surgical candidate.
   Unlikely acute infection.
   -   appreciate pod recs
   -    compressive dressing changes
   -    antibiotic management as above
   # Subtherapeutic INR:  history of St. [**Initials (NamePattern4) 1930**] [**Last Name (NamePattern4) **]. INR trending up to
   1.9. Pt coumadin held [**1-2**] to bleeding.  Goal INR 2.5-3.5 w/ valve.
   Since pt is bleeding and small risk for thrombosis, and being
   coagulopathic likely [**1-2**] liver failure benefit of heparin is marginal
   and risk is great.
   - holding coumadin for now given bled
   - trend Hct and coags
   .
   # UTI- growing proteus. Day #[**9-12**] antibiotics. Changed to CTX.
   # CKD: Cr 4.8. Most likely ATN [**1-2**] hypotension and subsequent
   ischemia.  d/c lasix gtt given no response.  Pt with 30cc urine output.
   Cont to be overloaded
   - Renal: pt is not a dialysis candidate and will not offer. Primary
   team also in consensus
   - f/u renal recs
   # Anemia: Hct 24 s/p 1U pRBC overnight..  Pt actively bleeding from
   biopsy side. Additionally,  worsening chronic kidney disease (was
   started on epo). Stools have been guaiac positive but this could be
   related to known hemorrhoids
Pt also bleeding from bladder on
   intermittent CBI.  Hemolysis labs unremarkable.
   - recheck PM Hct
   - transfuse Hct < 21
   - cont epo
   - wound care as above
   # Hypothermia: requiring intermittent bear hugger. Likely secondary to
   infection
   .
   # Hypotension: Pressure have remained stable. Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: LFTs cont to improve . Again it is very possible that
   the sig elevation related shock liver
   -cont to trend LFTs
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # Hematuria: continues to require intermittent CBI. Foley in place. Not
   on CBI currently.
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2: BS remain stable. On TF
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: cordis
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given INR,
   aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   Continues with oliguric renal failure. Renal consult agrees that not a
   candidate for dialysis.
   Physical Examination
   unconscious
   Medical Decision Making
   Continue antibiotics for 2 wk course.
   Discuss hopeless prognosis with family.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2108-5-12**] 10:11 ------

2108-05-13 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hemoptysis in AM, ordered CXR - worsened pleural effusions on R side,
   but no e/o pulmonary hemorrhage
   - R foot still bleeding when checked on dressing change mid-day
   - repeat Hct 23.1, did not transfuse
   - ID: s/o. Attg wrote to add on tetracycline sensitivity to Proteus. If
   not susceptable to Doxy (and ready for suppresive osteo tx after 2wks
   abx) to consider Augmentin, but doxy is preferred.
   - Podiatry no note
   - Renal: dialysis futile
   - Serum Osm: 355
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-11**] 04:35 PM
   Linezolid - [**2108-5-11**] 04:35 PM
   Ceftriaxone - [**2108-5-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2108-5-12**] 02:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-13**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 62 (55 - 65) bpm
   BP: 113/37(57) {91/31(46) - 117/44(67)} mmHg
   RR: 19 (0 - 19) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
             Total In:
                                                                  1,371 mL
                                                                    466 mL
   PO:
             TF:
                                                                    841 mL
                                                                    241 mL
   IVF:
                                                                    170 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                     25 mL
   Urine:
                                                                    225 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,146 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 8.4 L/min
   Physical Examination
   GENERAL: Elderly man, eyes open not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheezes or rales
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds.
   EXTREMITIES: No c/c/e. Bilateral [**1-3**]+ LE edema
   SKIN: Heel ulcer with dressing in place, slightly bloody but no e/o
   active bleeding.  stage II decubitus ulcer
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   233 K/uL
   8.1 g/dL
   137 mg/dL
   4.7 mg/dL
   18 mEq/L
   4.8 mEq/L
   241 mg/dL
   91 mEq/L
   131 mEq/L
   24.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2108-5-9**]  05:31 AM
                             [**2108-5-9**]  04:03 PM
                             [**2108-5-10**]  01:44 AM
                             [**2108-5-10**]  06:07 AM
                             [**2108-5-10**]  08:05 PM
                             [**2108-5-11**]  05:12 AM
                             [**2108-5-11**]  05:00 PM
                             [**2108-5-12**]  05:04 AM
                             [**2108-5-12**]  05:19 PM
                             [**2108-5-13**]  02:34 AM
   WBC
   15.7
   16.8
   18.3
   21.5
   16.9
   15.8
   17.6
   Hct
   22.2
   20.9
   23.9
   21.5
   24.0
   23.0
   21.5
   24.7
   23.8
   24.2
   Plt
   [**Telephone/Fax (3) 8182**]23
   205
   233
   Cr
   4.2
   4.2
   4.2
   4.8
   4.7
   Glucose
   156
   159
   142
   152
   137
   Other labs: PT / PTT / INR:19.1/46.7/1.7, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:37/28, Alk Phos / T Bili:721/1.1,
   Differential-Neuts:85.2 %, Lymph:9.8 %, Mono:3.1 %, Eos:1.6 %,
   Fibrinogen:772 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:244
   IU/L, Ca++:6.9 mg/dL, Mg++:3.0 mg/dL, PO4:9.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   .
   # Septicemia: Blood cxs have been positive for proteus ([**5-2**]) and VRE
   ([**5-3**]). Serial cxs remain neg since [**2108-5-3**]. However, pt cont to have
   rising WBC ct and remains hypothermic.
   -  cont CTX. Today is day# [**11-12**]
   -  Cont PO linezolid. Today is day# [**8-13**]
   - will plan to treat though line
   - f/u tetracycline sensitivity to proteus since ID has rec doxy
   suppressive therapy if sensitive
   .
   #. Chronic Osteo: Pt seen by podiatry.  Not surgical candidate.
   Unlikely acute infection.
   -   cont  compressive dressing changes
   - discuss oozing eschar with podiatry and see if they want to
   re-cauterize
   -    antibiotic management as above
   .
   # Subtherapeutic INR:  history of St. [**Initials (NamePattern4) 1930**] [**Last Name (NamePattern4) **]. INR trending up to
   1.9. Pt coumadin held [**1-2**] to bleeding.  Since pt is bleeding and small
   risk for thrombosis, and being coagulopathic likely [**1-2**] liver failure
   benefit of heparin is marginal and risk is great.
   - holding coumadin for now given bleed
   .
   # UTI- growing proteus. Today is Day #[**11-12**] antibiotics. Changed from
   zosyn to CTX per ID.
   # CKD: Cr 4.8. Most likely ATN [**1-2**] hypotension and subsequent
   ischemia.  d/c
d lasix gtt given no response. Cont to be overloaded
   - Renal: pt is not a dialysis candidate and will not offer. Primary
   team also in consensus
   - f/u renal recs
   # Anemia: Hct remains stable at 24. Anemia likely a combination of
   dilutional effect, chronic inflammation and possibly from cont blood
   loss from his foot wound
   - transfuse Hct < 21
   - cont epo
   - wound care as above
   # Hypothermia: requiring intermittent bear hugger. Likely secondary to
   infection
   .
   # Hypotension: Pressure have remained stable. Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: LFTs cont to improve . Likely recovering shock liver.
   -cont to trend LFTs
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # Hematuria: Passing small clots. continues to require intermittent
   CBI. Foley in place. Not on CBI currently.
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2: BS remain stable. On TF
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: cordis
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given INR,
   aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   ------ Protected Section ------
   I agreed with the comprehensive progress note as outlined by Dr.
   [**Last Name (STitle) 7999**] on [**2108-5-13**].   I concur with the documentation of the 24
   hour history.  The physical examination is consistent with my
   examination and the assessment and management describe our plans over
   the next 24 hours.  Mr. [**Known firstname 709**] is a [**Age over 90 **] year old man with multiorgan
   system failure.  He is unresponsive.  His vital signs have been
   unchanged over the past 24 hours but the has been progression of the
   bleeding of the wound on his right food.  He is in renal failure with a
   BUN > 200 mg/Dl.  Dialysis is not a viable option for his due to his
   septicemia with Proteus Mirabilis.  We will continue all measures as
   outlined above. [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] x20958
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2108-5-13**] 15:19 ------

2108-05-14 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Podiatry recs:drsg [**Name5 (PTitle) 899**] [**Name5 (PTitle) 8200**] [**Name5 (PTitle) **] day with
   silvadene,adaptic,4x4,cling, multipodous boots
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-5-11**] 04:35 PM
   Linezolid - [**2108-5-11**] 04:35 PM
   Ceftriaxone - [**2108-5-13**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-14**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 66 (57 - 66) bpm
   BP: 101/47(60) {94/33(51) - 121/66(72)} mmHg
   RR: 21 (0 - 21) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
             Total In:
                                                                  1,590 mL
                                                                    484 mL
   PO:
             TF:
                                                                    840 mL
                                                                    248 mL
   IVF:
                                                                    170 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    400 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,230 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 9.2 L/min
   Physical Examination
   GENERAL: Elderly man, eyes open not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheezes or rales
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds.
   EXTREMITIES: No c/c/e. Bilateral [**1-3**]+ LE edema
   SKIN: Heel ulcer with dressing in place, slightly bloody but no e/o
   active bleeding.  stage II decubitus ulcer
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   206 K/uL
   7.7 g/dL
   157 mg/dL
   5.1 mg/dL
   16 mEq/L
   4.8 mEq/L
   259 mg/dL
   91 mEq/L
   131 mEq/L
   22.8 %
   15.7 K/uL
        [image002.jpg]
                             [**2108-5-9**]  04:03 PM
                             [**2108-5-10**]  01:44 AM
                             [**2108-5-10**]  06:07 AM
                             [**2108-5-10**]  08:05 PM
                             [**2108-5-11**]  05:12 AM
                             [**2108-5-11**]  05:00 PM
                             [**2108-5-12**]  05:04 AM
                             [**2108-5-12**]  05:19 PM
                             [**2108-5-13**]  02:34 AM
                             [**2108-5-14**]  04:01 AM
   WBC
   16.8
   18.3
   21.5
   16.9
   15.8
   17.6
   15.7
   Hct
   20.9
   23.9
   21.5
   24.0
   23.0
   21.5
   24.7
   23.8
   24.2
   22.8
   Plt
   233
   238
   223
   [**Telephone/Fax (3) 8201**]
   Cr
   4.2
   4.2
   4.8
   4.7
   5.1
   Glucose
   159
   142
   152
   137
   157
   Other labs: PT / PTT / INR:17.7/41.6/1.6, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:34/32, Alk Phos / T Bili:706/1.0,
   Differential-Neuts:85.2 %, Lymph:9.8 %, Mono:3.1 %, Eos:1.6 %,
   Fibrinogen:772 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:237
   IU/L, Ca++:7.0 mg/dL, Mg++:3.0 mg/dL, PO4:9.8 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ANEMIA, OTHER
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   .
   # Septicemia: Blood cxs have been positive for proteus ([**5-2**]) and VRE
   ([**5-3**]). Serial cxs remain neg since [**2108-5-3**]. However, pt cont to have
   rising WBC ct and remains hypothermic.
   -  cont CTX. Today is day# 13/14
   -  Cont PO linezolid. Today is day# [**9-12**]
   - will plan to treat though line
   - tetracycline sensitive to proteus. ID has rec doxy suppressive
   therapy if sensitive
   .
   #. Chronic Osteo: Pt seen by podiatry.  Not surgical candidate.
   Unlikely acute infection.
   -   cont  compressive dressing changes
   -    antibiotic management as above
   .
   # Subtherapeutic INR:  history of St. [**Initials (NamePattern4) 1930**] [**Last Name (NamePattern4) **]. INR trending down to
   1.6. Pt coumadin held [**1-2**] to bleeding.  Since pt is bleeding and small
   risk for thrombosis, and being coagulopathic likely [**1-2**] liver failure
   benefit of heparin is marginal and risk is great.
   - holding coumadin for now given bleed
   .
   # UTI- growing proteus. Today is Day #13/14 antibiotics. Changed from
   zosyn to CTX per ID.
   # CKD: Cr 5.1. Most likely ATN [**1-2**] hypotension and subsequent
   ischemia.  d/c
d lasix gtt given no response. Cont to be overloaded
   - Renal: pt is not a dialysis candidate and will not offer. Primary
   team also in consensus
   - f/u renal recs
   - will discuss with family
   # Anemia: Hct remains stable at 22.8. Anemia likely a combination of
   dilutional effect, chronic inflammation and possibly from cont blood
   loss from his foot wound
   - check hct daily
   - transfuse Hct < 21
   - d/c epo
   - wound care as above
   # Hypothermia: requiring intermittent bear hugger. Likely secondary to
   infection
   .
   # Hypotension: Pressure have remained stable. Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: LFTs cont to improve . Likely recovering shock liver.
   -cont to trend LFTs
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # Hematuria: Passing small clots. continues to require intermittent
   CBI. Foley in place. Not on CBI currently.
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2: BS remain stable. On TF
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: cordis
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given INR,
   aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2108-5-13**] 11:16 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2108-5-2**] 03:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Doctor Last Name **].
   I would add the following remarks:
   History
   Renal failure worsening.    Not candidate for HD.  Completing
   antibiotic courses.
   Medical Decision Making
   Plan possible transfer back to rehab facility.
   Prognosis hopeless with demise from renal failure possible in near
   future.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2108-5-14**] 12:13 ------

2108-05-15 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - d/c'd epo
   - screening for rehab
   - Final ID recs: stop CTX after full 14d course, continue linezolid
   through day 14 then switch to doxycycline 100mg [**Hospital1 **].
   - Family concerned about question rash on face. Given doses of
   famotidine and fexofenadine overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-5-14**] 09:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-5-14**] 08:00 AM
   Famotidine (Pepcid) - [**2108-5-15**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-5-15**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 63 (59 - 70) bpm
   BP: 113/39(58) {101/32(49) - 122/44(65)} mmHg
   RR: 19 (6 - 20) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 100.7 kg (admission): 97 kg
   Height: 69 Inch
             Total In:
                                                                  1,748 mL
                                                                    767 mL
   PO:
             TF:
                                                                    848 mL
                                                                    270 mL
   IVF:
                                                                    170 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                    355 mL
   Urine:
                                                                     30 mL
                                                                      5 mL
   NG:
   Stool:
   350 mL
   Drains:
   Balance:
                                                                  1,318 mL
                                                                    412 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: ///15/
   Ve: 8.3 L/min
   Physical Examination
   GENERAL: Elderly man, eyes open not responding to commands, not
   sedated
   HEENT: NCAT. Sclera anicteric. No scleral edema. Dolls eyes normal
   without fixed gaze.
   NECK: Tracheostomy collar in place. Site appears clean without erythema
   or drainage.
   CARDIAC: II/VI systolic murmur heard best at RUSB, otherwise distant
   heart sounds
   LUNGS: mechanical breath sounds bilaterally, no wheezes or rales
   ABDOMEN: Soft, non-distended, hypoactive bowel sounds.
   EXTREMITIES: No c/c/e. Bilateral [**1-3**]+ LE edema
   SKIN: Heel ulcer with dressing in place, slightly bloody but no e/o
   active bleeding.  stage II decubitus ulcer . Macular papular lesions on
   face
   PULSES:
   Right: DP dopplerable
   Left: DP dopplerable
   Labs / Radiology
   189 K/uL
   7.6 g/dL
   135 mg/dL
   5.0 mg/dL
   15 mEq/L
   5.0 mEq/L
   276 mg/dL
   89 mEq/L
   128 mEq/L
   22.5 %
   15.6 K/uL
        [image002.jpg]
                             [**2108-5-10**]  01:44 AM
                             [**2108-5-10**]  06:07 AM
                             [**2108-5-10**]  08:05 PM
                             [**2108-5-11**]  05:12 AM
                             [**2108-5-11**]  05:00 PM
                             [**2108-5-12**]  05:04 AM
                             [**2108-5-12**]  05:19 PM
                             [**2108-5-13**]  02:34 AM
                             [**2108-5-14**]  04:01 AM
                             [**2108-5-15**]  04:44 AM
   WBC
   16.8
   18.3
   21.5
   16.9
   15.8
   17.6
   15.7
   15.6
   Hct
   23.9
   21.5
   24.0
   23.0
   21.5
   24.7
   23.8
   24.2
   22.8
   22.5
   Plt
   233
   238
   223
   [**Telephone/Fax (3) 8201**]
   189
   Cr
   4.2
   4.2
   4.8
   4.7
   5.1
   5.0
   Glucose
   159
   142
   152
   137
   157
   135
   Other labs: PT / PTT / INR:16.4/43.4/1.5, CK / CKMB /
   Troponin-T:35/4/0.16, ALT / AST:34/32, Alk Phos / T Bili:706/1.0,
   Differential-Neuts:85.2 %, Lymph:9.8 %, Mono:3.1 %, Eos:1.6 %,
   Fibrinogen:772 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:237
   IU/L, Ca++:6.8 mg/dL, Mg++:3.1 mg/dL, PO4:9.8 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ANEMIA, OTHER
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   [**Age over 90 **] yo man with DM2, PAD, anoxic brain injury after asystolic cardiac
   arrest, currently ventilator dependent, presents from [**Hospital3 **]
   with bradycardia, hypotension and hyperkalemia.
   .
   # Septicemia: Blood cxs have been positive for proteus ([**5-2**]) and VRE
   ([**5-3**]). Serial cxs remain neg since [**2108-5-3**]. However, pt cont to have
   rising WBC ct and remains hypothermic.
   -  Today is day# 14/14 will d/c CTX today and change to doxycycline 100
   [**Hospital1 7**]
   -  Cont PO linezolid. Today is day# [**10-13**]
   - cont treat though line
   - tetracycline sensitive to proteus. ID has rec doxy suppressive
   therapy if sensitive
   .
   # Maculopapular lesions
 likely drug rash [**1-2**] CTX only drug change,
   started 2d ago
   - continue fexofenadine and famotidine
   - would anticipate improvement given CTX to be stopped today
   #. Chronic Osteo: Pt seen by podiatry.  Wound growing proteus. Not
   surgical candidate. Unlikely acute infection.
   -   cont  compressive dressing changes
   -   will d/c CTX today and change to doxycycline 100 [**Hospital1 7**] as above
   .
   # Subtherapeutic INR:  history of St. [**Initials (NamePattern4) 1930**] [**Last Name (NamePattern4) **]. INR trending down to
   1.5 now. Pt coumadin held [**1-2**] to bleeding.  Will restart coumadin today
   given right foot bleeding stabilized.
   .
   # UTI- growing proteus. Today is Day #14/14 antibiotics. Changed from
   zosyn to CTX per ID.  Now finished full  course for UTI
   # CKD: Cr 5.0. Most likely ATN [**1-2**] hypotension and subsequent
   ischemia.  d/c
d lasix gtt given no response. Cont to be overloaded
   - Renal: pt is not a dialysis candidate and will not offer. Primary
   team also in consensus
   - f/u renal recs
   - will discuss with family
   # Anemia: Hct remains stable at 22.8. Anemia likely a combination of
   dilutional effect, chronic inflammation and possibly from cont blood
   loss from his foot wound
   - check hct daily
   - transfuse Hct < 21
   - d/c epo
   - wound care as above
   # Hypothermia: requiring intermittent bear hugger. Likely secondary to
   infection
   .
   # Hypotension: Pressure have remained stable. Holding Carvedilol
   - Goal MAP >55
   .
   # Elevated LFTs: LFTs cont to improve . Likely recovering shock liver.
   -cont to trend LFTs
   .
   # Bradycardia:  Sinus bradycardia. HR stable in 50
s-60
   - Hold Carvedilol for now
   - Pacer pads in place as needed
   - Atropine prn
   .
   # Hematuria: Nearly resolved. Foley in place. Not on CBI currently.
   .
   # CAD:Trop elev at 0.16 at admission.  No further w/u given setting of
   renal insufficiency
   .
   # Type II Resp Failure: Patient is ventilatory dependent, likely due to
   his poor neurologic status. Tracheostomy in place, and patient
   comfortable on CIMV.
   - Continue vent
   .
   # Seizure Disorder: Patient previously on Keppra but no longer on
   anti-epileptic medication while at [**Hospital1 997**].
   - Monitor off anti-epileptics
   .
   # DM2: BS remain stable. On TF
   - Lantus, Lispro insulin sliding scale
   .
   # Goals of care- family understandable of pt
s poor prognosis and are
   still in favor of full code status. Ethics has been consulted and has
   met with family.
   .
   # FEN: TFs
   # ACCESS: cordis
   # PROPHYLAXIS: Pneumoboots; hold on SQ Heparin for now given INR,
   aspiration precautions
   # CODE: Full.
   # COMMUNICATION: [**Doctor First Name **] [**Telephone/Fax (1) 7956**]
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular Order date: [**5-2**] @ 0423
   10. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
   2. Acetaminophen (Liquid) 650 mg PO Q4H:PRN
   11. Lanthanum 1500 mg PO TID W/
   3. Aluminum Hydroxide Suspension 30 mL PO Q4H:PRN
   12. Linezolid 600 mg PO Q12H
   day1 = [**5-5**]
   4. Artificial Tear Ointment 1 Appl BOTH EYES PRN eye dryness
   13. Miconazole Powder 2% 1 Appl TP QID
   5. Ascorbic Acid (Liquid) 504 mg PO DAILY
   14. Morphine Sulfate 2-4 mg IV Q4H:PRN pain
   6. CeftriaXONE 1 gm IV Q24H  Order date: [**5-11**]
   15. Multivitamins 1 TAB PO DAILY
   7. Famotidine 20 mg IV Q24H
   16. Silver Sulfadiazine 1% Cream 1 Appl TP EVERY OTHER DAY
   8. Fexofenadine 60 mg PO DAILY
   9. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7999**].
   I would add the following remarks:
   History
   Continues downhill course.   Anuric.  Family concerned about facial
   rash possibly related to antibiotics.
   Physical Examination
   macular facial rash- mild
   Medical Decision Making
   Follow ID recommendations on antibiotics.
   Not candidate for HD.  BUN 276, Cr 5.0.
   Possible transfer to another care facility where expect death soon
   related to renal failure.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2108-5-15**] 11:38 ------